US07405210B2
5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (2-oxo-2-phenylethyl)amide
The title compound was prepared as outlined in EXAMPLE 1 from 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (Preparation 18) and 2-oxo-2-phenylethylamine. The product was purified by mass directed purification to give the title compound as an orange solid. m/z (ES+)=314 [M+H]+; RT=3.30 min.

reactant | 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | ClC=1C=C2C(=CN1)NC(=C2)C(=O)O | C8H5ClN2O2
reactant | 2-oxo-2-phenylethylamine | O=C(CN)C1=CC=CC=C1 | C8H9NO
product | 5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (2-oxo-2-phenylethyl)amide | O=C(CNC(=O)C1=CC=2C(=CN=C(C2)Cl)N1)C1=CC=CC=C1 | C16H12ClN3O2
